US05300503
This compound was prepared in a manner analogous to that of Example 2, using 47.9 grams (0.247 mole) of 4,6-diamino-1,2-dihydro-1-hydroxy-2,2-dimethyl-1,3,5-triazine hydrochloride in 100 ml of water and a 3.5 cm - diameter column containing 350 ml of a strongly basic gel-type ion-exchange resin. An additional 500 ml of water was passed through the column to remove the maximum amount of product. The combined eluants were concentrated under reduced pressure, yielding 37.9 grams of 4,6-diamino-1,2-dihydro-1-hydroxy-2,2-dimethyl-1,3,5-triazine; m.p. 211°-212° C. (dec). The NMR spectrum was consistent with the proposed structure.

reactant | 4,6-diamino-1,2-dihydro-1-hydroxy-2,2-dimethyl-1,3,5-triazine hydrochloride | 0.247 mole, 47.9 grams | Cl.NC1=NC(N(C(=N1)N)O)(C)C
solvent | water | 100 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 4,6-diamino-1,2-dihydro-1-hydroxy-2,2-dimethyl-1,3,5-triazine | 37.9 grams | NC1=NC(N(C(=N1)N)O)(C)C | C5H11N5O
